US07173048B2
A solution of 25 mg of 2-{1-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-3-hydroxymethyl-2-methyl-1H-indol-5-yl}-1,1,1,3,3,3-hexafluoro-propan-2-ol in 1 mL of MeOH was treated with Pd/C (10% Pd) and stirred under H2 at atmospheric pressure for 8 hrs. Filtration and evaporation of the solvent yielded 2-[2,3-dimethyl-1-(5-methyl-2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-1,1,1,3,3,3-hexafluoro-propan-2-ol, light brown solid, 483 (MH+).

reactant | 2-{1-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-3-hydroxymethyl-2-methyl-1H-indol-5-yl}-1,1,1,3,3,3-hexafluoro-propan-2-ol | 25 mg | ClC=1C=C(C=CC1)C=1OC(=C(N1)CN1C(=C(C2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O)CO)C)C | C24H19ClF6N2O3
solvent | MeOH | 1 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-[2,3-dimethyl-1-(5-methyl-2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-1,1,1,3,3,3-hexafluoro-propan-2-ol | CC=1N(C2=CC=C(C=C2C1C)C(C(F)(F)F)(C(F)(F)F)O)CC=1N=C(OC1C)C1=CC=CC=C1 | C24H20F6N2O2
